US20010006805A1
A reactor vessel is charged with 3-aminopyridine (2.0 g, 21 mmol), 2,2,2-trifluoroethanol (15 g, 150 mmol), and trifluoroacetic acid (3.63 g, 31.8 mmol). The solution is cooled to 15° C. and then t-Butylnitrite (2.51 g of a 96% solution, 23.4 mmol) is added drop-wise to the vessel so that the temperature rises to the range 25° C.-30° C. Potassium carbonate (4.4 g) is added to the vessel and the reaction mass is stirred overnight followed by dilution with water and extraction with ethyl acetate. The solvent is evaporated to obtain 3-(2,2,2-trifluoroethoxy)pyridine as a crude oil (3.94 g, crude yield 59.5%) with an actual yield of 56.8%.

reactant | 3-aminopyridine | 21 mmol, 2.0 g | NC=1C=NC=CC1 | C5H6N2
reactant | 2,2,2-trifluoroethanol | 150 mmol, 15 g | FC(CO)(F)F | C2H3F3O
reactant | trifluoroacetic acid | 31.8 mmol, 3.63 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | t-Butylnitrite | C(C)(C)(C)ON=O | C4H9NO2
reactant | Potassium carbonate | 4.4 g | C([O-])([O-])=O.[K+].[K+]
product | 3-(2,2,2-trifluoroethoxy)pyridine | yield of 56.8% | FC(COC=1C=NC=CC1)(F)F | C7H6F3NO
